US08859573B2
4-(Chloromethyl)phenyl 4-chloro-3-(trifluoromethyl)phenyl ether
A solution of (4-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)methanol (200 mg, 0.661 mmol) in thionyl chloride (0.5 mL, 6.85 mmol) was stirred at rt for 1 h. Then the excess thionyl chloride was removed under vacuum to afford the title product (200 mg) as a yellow oil, which was used in the next reaction without purification. LC-MS (ESI): m/z 285 [M−Cl]+; 4.17 min (ret time).

reactant | (4-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)methanol | 0.661 mmol, 200 mg | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)CO)C(F)(F)F | C14H10ClF3O2
reactant | thionyl chloride | 6.85 mmol, 0.5 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-(Chloromethyl)phenyl 4-chloro-3-(trifluoromethyl)phenyl ether | 200 mg | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)CCl)C(F)(F)F | C14H9Cl2F3O
